US07799806B2
Step 6: 1-Piperidin-4-yl-1,5-dihydro-imidazo[4,5-c]pyridin-4-one dihydrochloride
To a solution of 1-(1-acetyl-piperidin-4-yl)-1,5-dihydro-imidazo[4,5-c]pyridin-4-one (6.00 g, 23.05 mmol) in ethanol (48 mL) was added conc. HCl (24 mL) and the reaction mixture heated to reflux for 16 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 219.2 [M+H]+.

reactant | 1-(1-acetyl-piperidin-4-yl)-1,5-dihydro-imidazo[4,5-c]pyridin-4-one | 23.05 mmol, 6.00 g | C(C)(=O)N1CCC(CC1)N1C=NC=2C(NC=CC21)=O | C13H16N4O2
reactant | HCl | 24 mL | Cl | ClH
solvent | ethanol | 48 mL | C(C)O | C2H6O
product | 1-Piperidin-4-yl-1,5-dihydro-imidazo[4,5-c]pyridin-4-one dihydrochloride | Cl.Cl.N1CCC(CC1)N1C=NC=2C(NC=CC21)=O | InChI=1S/C11H14N4O.2ClH/c16-11-10-9(3-6-13-11)15(7-14-10)8-1-4-12-5-2-8;;/h3,6-8,12H,1-2,4-5H2,(H,13,16);2*1H
